US06927221B2
1-(1-Ethylpropyl)-6-mesityl-4-methyl-2,3-dihydro-1H-pyrrolo[3,2-c][1,5]naphthyridine
A solution of 4-chloro-3-(2-chloroethyl)-8-mesityl-2-methyl[1,5]naphthyridine (150 mg, 0.42 mmol) in 3-aminopentane (7.5 mL) was stirred at 200° C. for four hours in a sealed tube. After overnight, the residue was purified by silica gel column chromatography (30-50% ethyl acetate/hexane), to give the title compound (50 mg) as white crystals.

reactant | 4-chloro-3-(2-chloroethyl)-8-mesityl-2-methyl[1,5]naphthyridine | 0.42 mmol, 150 mg | ClC1=C(C(=NC2=C(C=CN=C12)C1=C(C=C(C=C1C)C)C)C)CCCl | C20H20Cl2N2
solvent | 3-aminopentane | 7.5 mL | NC(CC)CC | C5H13N
product | 1-(1-Ethylpropyl)-6-mesityl-4-methyl-2,3-dihydro-1H-pyrrolo[3,2-c][1,5]naphthyridine | 50 mg | C(C)C(CC)N1CCC=2C(=NC=3C(=CC=NC3C21)C2=C(C=C(C=C2C)C)C)C | C25H31N3
